US07973047B2
Step 3: (Z)—N-(6-bromo-2-(trifluoromethyl)-4H-chromen-4-ylidene)(phenyl)methanamine
To a cooled (ice bath) EtOH (96 ml) was bubbled through hydrogen chloride gas for 30 min. (Z)-4-(benzylamino)-4-(5-bromo-2-hydroxyphenyl)-1,1,1-trifluorobut-3-en-2-one (24.0 g, 60 mmol) was then added in one portion to this solution. The reaction was stirred at RT for 36 h. The resulted mixture was diluted with 900 ml of cool water, 28% aq NH3 (96 ml) was then added. The precipitate formed was filtered and washed with water to give a brown sticky solid. The solid was dissolved in EtOAc, washed with 1N HCl and brine. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was crystallized from hexane to give the title compound as a brown solid. MS m/z: 382.

reactant | EtOH | 96 ml | CCO | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | (Z)-4-(benzylamino)-4-(5-bromo-2-hydroxyphenyl)-1,1,1-trifluorobut-3-en-2-one | 60 mmol, 24.0 g | C(C1=CC=CC=C1)N\C(=C/C(C(F)(F)F)=O)\C1=C(C=CC(=C1)Br)O | C17H13BrF3NO2
solvent | water | 900 ml | O | H2O
solvent | NH3 | 96 ml | N | H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (Z)—N-(6-bromo-2-(trifluoromethyl)-4H-chromen-4-ylidene)(phenyl)methanamine | BrC=1C=C2\C(\C=C(OC2=CC1)C(F)(F)F)=N/CC1=CC=CC=C1 | C17H11BrF3NO
